US06265575B1
Part A. (±)-trans-2-(Imidazol-1-yl)cyclohexanol
A mixture of 20.18 g of imidazole, 81.95 g of K2CO3, and 20.0 mL of cyclohexene oxide in ca. 200 mL of H2O was stirred at room temperature for 19 h, at 100° C. (bath temp.) for 7 h, and then at room temperature overnight. The mixture was extracted with 3×500 mL of EtOAc and 500 mL of CH2Cl2. The organic layers were washed with 2×300 mL of H2O and 300 mL of brine. Combined organic layers were dried over MgSO4 and concentrated. The crude product was crystallized from EtOAc to yield 8.57 g (26%) of the crystalline solid.

reactant | imidazole | 20.18 g | N1C=NC=C1 | C3H4N2
reactant | K2CO3 | 81.95 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclohexene oxide | 20.0 mL | C12C(CCCC1)O2 | C6H10O
solvent | H2O | ca. 200 mL | O | H2O
product | (±)-trans-2-(Imidazol-1-yl)cyclohexanol | 8.57 g, 26% | N1(C=NC=C1)[C@H]1[C@@H](CCCC1)O | C9H14N2O
